US04518682
Into 300 ml of methanol were dissolved 64 g of 4-(2-aminoethyloxy)-2-hexadecylcarbamoyl-1-naphthol and 35 g of triethylamine. To this mixture was added dropwise 19 g of carbon disulfide at a temperature not exceeding 10° C., and the resulting mixture was stirred for 1 hour. Thereafter, 11.9 g of ethyl chloroformate was added dropwise and stirred for additional 30 minutes. The resulting reaction mixture was poured into 1.5 l of water, and precipitated crystals were collected by filtration and recrystallization from acetonitrile to give 47 g of 4-(2-isothiocyanatoethyloxy)-2-hexadecylcarbamoyl-1-naphthol. Yield: 92%. M.P.: 90°-91° C.

reactant | methanol | 300 ml | CO | CH4O
reactant | 4-(2-aminoethyloxy)-2-hexadecylcarbamoyl-1-naphthol | 64 g | NCCOC1=CC(=C(C2=CC=CC=C12)O)C(NCCCCCCCCCCCCCCCC)=O | C29H46N2O3
reactant | triethylamine | 35 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 11.9 g | ClC(=O)OCC | C3H5ClO2
reactant | carbon disulfide | 19 g | C(=S)=S | CS2
solvent | water | 1.5 l | O | H2O
product | 4-(2-isothiocyanatoethyloxy)-2-hexadecylcarbamoyl-1-naphthol | 47 g, Yield: 92% | N(=C=S)CCOC1=CC(=C(C2=CC=CC=C12)O)C(NCCCCCCCCCCCCCCCC)=O | C30H44N2O3S
